US07776897B2
Ethyl 1-pyridin-4-ylcyclopentanecarboxylate and benzyl bromide were reacted in acetonitrile under heating. The residue obtained by subjecting the reaction solution to evaporation under reduced pressure, triethylamine and platinum oxide were reacted in ethanol under a hydrogen atmosphere to obtain ethyl 1-(1-benzylpiperidin-4-yl)cyclopentanecarboxylate.

reactant | Ethyl 1-pyridin-4-ylcyclopentanecarboxylate | N1=CC=C(C=C1)C1(CCCC1)C(=O)OCC | C13H17NO2
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetonitrile | C(C)#N | C2H3N
product | ethyl 1-(1-benzylpiperidin-4-yl)cyclopentanecarboxylate | C(C1=CC=CC=C1)N1CCC(CC1)C1(CCCC1)C(=O)OCC | C20H29NO2
